US07001917B2
Step 3. 2-[4-(3-Methyl-4-phenyl-1H-pyrazol-1-yl)phenyl]ethyl (4-methylphenyl)sulfonylcarbamate
A mixture of 4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl)oxy]ethyl}phenylboronic acid (200 mg, 0.55 mmol), 3-methyl-4-phenylpyrazole (87 mg, 0.55 mmol), Copper(II) acetate (120 mg, 0.66 mmol), triethylamine (0.23 mL, 1.65 mmol), molecular sieves 4A (200 mg), and dichloromethane (8 mL) was stirred at room temperature for 3 days. After filtration through a bed of celite, the filtrate was diluted with dichloromethane, and washed with water. The organic fraction was dried over MgSO4. After concentration under reduced pressure, the residue was purified by TLC with dichloromethane/ethylacetate (10:1) to afford 56 mg (21%) of the title compound as white solids: MS (ESI) m/z 476 [M+H]+, 474 [M−H]−, 1H-NMR (CDCl3) δ 7.88 (2H, d, J=8.5 Hz), 7.61-7.19 (11H, m), 4.31 (2H, t, J=6.6 Hz), 2.92 (2H, t, J=6.6 Hz), 2.49 (3H, s), 2.42 (3H, s).

reactant | 4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl)oxy]ethyl}phenylboronic acid | 0.55 mmol, 200 mg | CC1=CC=C(C=C1)S(=O)(=O)NC(=O)OCCC1=CC=C(C=C1)B(O)O | C16H18BNO6S
reactant | 3-methyl-4-phenylpyrazole | 0.55 mmol, 87 mg | CC1=NNC=C1C1=CC=CC=C1 | C10H10N2
reactant | triethylamine | 1.65 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
catalyst | Copper(II) acetate | 0.66 mmol, 120 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 2-[4-(3-Methyl-4-phenyl-1H-pyrazol-1-yl)phenyl]ethyl (4-methylphenyl)sulfonylcarbamate | 56 mg, 21% | CC1=CC=C(C=C1)S(=O)(=O)NC(OCCC1=CC=C(C=C1)N1N=C(C(=C1)C1=CC=CC=C1)C)=O | C26H25N3O4S
